US06303593B1
7-benzoxazole carboxylic acid
To a solution of 0.21 g (1.18 mmol) of methyl-7-benzoxazole carboxylate in 6 mL of CH3OH at 0° C. was added 2.9 mL of a 1N solution of KOH in water and the reaction mixture was stirred at rt for 1 h. The reaction mixture was partitioned between water and CH2Cl2. The aqueous fraction was made acidic with 1N HCl solution and extracted with CH2Cl2. The organic fraction was dried over Na2SO4, filtered and the filtrate was concentrated to give 0.17 g of the title compound as a yellow solid.

reactant | methyl-7-benzoxazole carboxylate | 1.18 mmol, 0.21 g | COC(=O)C1=CC=CC=2N=COC21 | C9H7NO3
reactant | KOH | [OH-].[K+]
solvent | CH3OH | 6 mL | CO | CH4O
solvent | water | O | H2O
product | 7-benzoxazole carboxylic acid | 0.17 g | O1C=NC2=C1C(=CC=C2)C(=O)O | C8H5NO3
